Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril / Humalog
 
Attending: ___.
 
Chief Complaint:
Epigastric and flank pain, fevers 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ w hx of sarcoid, diabetes and pancreatic cyst c/o ___ week 
history of intermittent chills and fevers measured at home up to 
102.3. Was seen in as an oupt ___ and was told that she had 
an elevated amylase and possible pancreatitis. The amylase 
elevation was recent. She has had normal appearing pancreas on 
scans in the past although a tiny cyst had been noted which 
decreased over time. At that time, ___, pt agreed to ERCP 
which had been scheduled for the future to evaluate biliary and 
pancreatic tree. She had a recent ultrasound prior to that 
appointment noted to be reassuring. Pt also agreed to future 
liver biopsy to eval cholestatic liver picture. Pt had been 
worked up for primary biliary cirrhosis in the past but prior 
labs negative per clinic note. Pt had been refusing colonoscopy 
but at that appointment ___ she agreed (no prior CRC screening). 
 
___ night (yesterday evening) she had a temp up to 101 and 
earlier this week felt severe weakness although no syncope or 
motor difficulty. Also c/o chest discomfort, SOB, epigastric 
pain and b/l flank pain. Previous w/u of chest pain was 
negative. ___ she spoke to her PCP via telephone and temp was 
per pt 99.5 with ___ upper and left sided abdominal pain 
described as ___ in intensity. No diarrhea, n/v/consiptation. 
Last BM yesterday Am. Diarrhea earlier this week but that has 
now resolved. She was told to go to the ED and her daugther 
brought her in.  
In the ED, initial VS were:98.8 81 153/72 18 97% RA. pain ___. 
Exam notable for RUQ and epigastric TTP and R CVA tenderness. 
Labs significant for ALT/AST: ___ (72/60 on ___, Lipase: 
325 (341 on ___, Alk Phos 394 (unchanged from ___, 
Bun/Cr: ___, WBC 5.2 (N:66.0 L:21.6 M:5.2 E:6.9 Bas:0.4). CT 
ABD/PELVIS showed Numerous enlarged portacaval, peripancreatic, 
periaortic, and mesenteric lymph nodes. Moderate fat stranding 
at the root of the mesentery. These findings are nonspecific and 
may relate to primary GI, hepatic, or pancreatic pathology. 
Lymphoma may also be considered. Although the liver is enlarged 
no other stigmata of cirrhosis are detected. CXR within normal 
limits. Pt received Zofran 4mg and Morphine 4mg IV. Vitals Prior 
to transfer: 98.3 67 124/49 18 98%.  
REVIEW OF SYSTEMS:  
(+) per HPI  
(-) headache, vision changes, rhinorrhea, congestion, sore 
throat, nausea, vomiting, constipation, melena, hematochezia, 
dysuria, hematuria.
 
Past Medical History:
SICKLE-CELL TRAIT  
SARCOIDOSIS  
HYPERTENSION - ESSENTIAL, BENIGN  
HYPERLIPIDEMIA  
LIVER FUNCTION TEST ABNMLTY  
VITAMIN D DEFIC, UNSPEC  
RENAL INSUFFICIENCY  
Obesity  
Folic acid deficiency  
Diabetes mellitus type 2, insulin dependent  
Trichotillomania  
Shoulder pain, right  
Rotator cuff tear  

 
Social History:
___
Family History:
Mother with sarcoidosis. No family h/o GI malignancy.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS: 124/61 98.5 65 18 97%RA  
GENERAL: well appearing  
HEENT: NC/AT, PERRLA, EOMI, sclerae anicteric, MMM  
NECK: supple, no LAD, JVD:  
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored, 
no accessory muscle use  
HEART: RRR, no MRG, nl S1-S2  
ABDOMEN: normal bowel sounds, soft, non-tender, non-distended, 
no rebound or guarding, no masses  
EXTREMITIES: no edema, 2+ pulses radial and dp  
NEURO: awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout, DTRs 2+ and 
symmetric  
 
DISCHARGE PHYSICAL EXAM
VS - T: 98.2 BP: 120/67 HR: 56 RR: 18 O2% 96RA 
GEN - Alert, oriented, no acute distress  
HEENT - NCAT, MMM, EOMI, sclera anicteric, OC/OP clear  
NECK - supple, no JVD, no LAD  
PULM - CTAB, no w/r/r  
CV - RRR, S1/S2, no m/r/g  
ABD - soft, tenderness to palpation over epigastric, 
periumblical, RUQ and LUQ regions, normoactive bowel sounds, no 
guarding or rebound  
EXT - WWP, no c/c/e, 2+ pulses palpable bilaterally  
NEURO - CN II-XII intact, motor function grossly normal  
SKIN - no ulcers or lesions  

 
Pertinent Results:
Admission labs:
___ 08:15PM ___ WBC-5.2 RBC-5.29 Hgb-13.3 Hct-40.3 
MCV-76* MCH-25.2* MCHC-33.1 RDW-13.6 Plt ___
___ 07:15AM ___ ___ PTT-35.1 ___
___ 08:15PM ___ Glucose-154* UreaN-22* Creat-1.2* Na-136 
K-3.5 Cl-100 HCO3-25 AnGap-15
___ 08:15PM ___ Albumin-3.7 Calcium-9.0 Phos-2.9 Mg-2.0
___ 08:15PM ___ ALT-73* AST-91* LD(LDH)-289* AlkPhos-394* 
TotBili-0.7
___ 08:15AM ___ Lactate-0.9
 
Discharge labs:
___ 07:15AM ___ WBC-3.7* RBC-4.95 Hgb-12.7 Hct-38.7 
MCV-78* MCH-25.6* MCHC-32.7 RDW-13.6 Plt ___
___ 07:15AM ___ Glucose-110* UreaN-15 Creat-1.0 Na-139 
K-3.9 Cl-104 HCO3-24 AnGap-15
___ 07:15AM ___ ALT-64* AST-71* LD(LDH)-299* AlkPhos-320* 
TotBili-0.5
___ 07:15AM ___ Calcium-8.5 Phos-4.4 Mg-1.9
___ 08:15PM ___ Albumin-3.7 Calcium-9.0 Phos-2.9 Mg-2.0
 
Micro: 
___ ___ culture x 2: pending
___ Urine culture: negative 
 
Studies: 
___ RUQ U/S: Status post cholecystectomy. No evidence of 
choledocholithiasis. The CBD is of normal caliber measuring 4 
mm. 
 
___ CXR: 
Frontal and lateral views of the chest were obtained.  No focal 
consolidation, pleural effusion, or evidence of pneumothorax is 
seen.  The cardiac and mediastinal silhouettes are stable and 
unremarkable. IMPRESSION:  No acute cardiopulmonary process. 
 
___ CT ABD/PELVIS (prelim):  
Abdomen: The visualized lung bases are clear other than minimal 
left basilar scarring. Prominent epi-pericardial lymph nodes are 
visualized. The liver is enlarged. The left lobe extends over 
the top of the spleen. The liver enhances homogeneously. There 
is a coarse calcification in segment 5. There are no concerning 
liver lesions. There is no intra or extrahepatic biliary 
dilatation. Hepatic and portal veins are patent. The pancreas 
enhances homogeneously. No pancreatic lesions are detected. The 
spleen enhances homogeneously. There is a small subcentimeter 
hypodensity in the splenic arenchyma (2: 26). Adrenal glands are 
normal. The kidneys enhance symmetrically and excrete contrast 
promptly.
  
There is moderate stranding at the root of the mesentery and 
associated with numerous enlarged mesenteric, periaortic, 
peripancreatic, and portacaval nodes. For example, a cluster of 
portacaval nodes measures 2.2 x 2.6 cm (2:20) and an SMA node 
measures 1.1 x 1.9 cm (2:25). The largest of the numerous 
mesenteric nodes measures 2.5 x 1.1 cm (2:34). There is no 
ascites. The stomach and intra-abdominal bowel have normal 
caliber appearance. The appendix is normal.
 
Pelvis: Multiple fibroids enlarge the uterine fundus. There are 
no adnexal lesions. The bladder is normal. There is no pelvic or 
inguinal adenopathy. There is no free pelvic fluid. There are no 
concerning lytic or sclerotic bone lesions.
 
IMPRESSION:
1. Numerous enlarged portacaval, peripancreatic, periaortic, and 
mesenteric lymph nodes. Moderate fat stranding at the root of 
the mesentery. These findings are nonspecific and may relate to 
primary GI, hepatic, or pancreatic pathology. Lymphoma may also 
be considered.
3. Splenic hypodensity of unknown significance.
 
___ MRCP:
Minimal dependent subsegmental atelectasis bilateral lung bases. 
 Minimal intrahepatic biliary ductal dilatation, with slightly 
pruned appearance of thebile ducts, more prominent in the left 
lobe, this could represent primary sclerosing cholangitis or 
other forms of sclerosing cholangitis, unchanged in appearance 
compared to outside MRCP from ___. Normal diameter of the 
common bile duct measuring 5 mm. Subcentimeter probable cyst in 
the spleen. Subcentimeter cysts are seen scattered in the 
pancreatic parenchyma, measuring up to 5 mm, these appear 
unchanged. Normal appearance of the pancreatic duct. No evidence 
of suspicious liver or pancreatic mass. Visualized hepatic 
venous and portal venous branches appear patent.  Borderline 
splenomegaly measuring 13 cm in length.  Normal-appearing 
bilateral adrenal glands, and kidneys.  Normal caliber abdominal 
aorta.  Normal-appearing small and large bowel.  No evidence of 
ascites.  Again visualized are multiple enlarged mesenteric and 
retroperitoneal lymph nodes in this patient with a history of 
sarcoidosis, these appear to have slightly increased in size 
since the prior outside studies from ___, 
including a pericardiac lymph node measuring 9 mm in short axis. 
The largest of these is in the mesentery measuring 2.3 x 1.1 cm 
and a periportal lymph node measuring 2.4 x 1.4 cm, and a left 
para-aortic lymph node measuring 2.8 x 1.3 cm.  These lymph 
nodes appear to restrict diffusion, however this finding is 
nonspecific.  Mesenteric fat stranding with halo appearance 
around some of these lymph nodes suggestive of mesenteric 
panniculitis.  
  
IMPRESSION:
1.  Slight interval enlargement since ___ and ___ of 
mesenteric and retroperitoneal lymphadenopathy in this patient 
with history of sarcoidosis. The mesenteric lymph nodes could 
also represent mesenteric panniculitis.  
2.  Mild intrahepatic biliary ductal dilatation with slightly 
pruned appearance of the bile ducts, more prominent in the left 
lobe, this could represent primary sclerosing cholangitis or 
other forms of sclerosing cholangitis.  Nontargeted liver biopsy 
may be helpful in further evaluation. 
3.  Subcentimeter cysts scattered throughout the pancreatic 
parenchyma unchanged.  
 
 
Brief Hospital Course:
___ with sarcoidosis, persistently elevated LFTs, IDDM and 
pancreatic cyst presenting with a day of epigastric and 
bilateral flank pain in the setting of 2 weeks of intermittent 
chills and fevers measured at home up to 102.3. 
 
Active Issues
 
# Abdominal Pain: Patient presented with fever to 101 at home, 
chills, and epigastric and bilateral flank pain with 
periumblical tenderness on exam. Her lipase was 325; however, CT 
imaging did not show radiologic evidence of pancreatitis, 
although this does not exclude the diagnosis. RUQ imagine was 
negative. Patient was also found to have diffuse abdominal 
lymphadenopathy thought to be related to her sarcoidosis, with 
CT/MRCP showing only slight increase in mesenteric and 
retroperitoneal lymph nodes compared to prior imaging in ___. 
Patient's LFTs were elevated, but near her baseline. She has had 
persistently elevated values for more than ___ years and is 
followed at ___ by Dr. ___.  Abdominal pain was most likely 
from a GI manifestation of sarcoidosis with diffuse 
lymphadenopathy and abnormal LFTs. Patient had elevated lipase, 
but acute pancreatitis is unlikely to explain her abdominal pain 
given she  did not have other symptoms/signs to suggest acute 
pancreatitis. Patient's pain was managed with rare doses of 
oxycodone. She was aferbile throughout her admission, tolerated 
PO intake, and pain was well controlled on discharge. 
 
# Abdominal lymphadenopathy: Patient has diffuse abdominal 
lymphadenopathy on CT/MRCP imaging essentially unchanged from CT 
imaging in ___ as well. Given this history, patient's 
sarcoidosis is the most likely cause. MRCP on ___ revealed 
slightly enlarged mesenteric and retroperitoneal lymph nodes 
consistent with her known sarcoidosis. Infection is less likely 
given the diffuse nature of the lymphadenopathy and the 
stability of the lymph nodes over years. Malignancy in the form 
of lymphoma is another possible explanation for lymphadenopathy 
and may explain the intermittent fevers for a year, though 
lymphadenopathy has been relatively indolent.  
  
# Elevated Lipase: Patient had lipase level of 325. Most likely 
related to GI sarcoidosis. Pancreatitis possible but unlikely 
given clinically doing well, with no nausea/vomiting, no 
findings on CT imaging. Patient received fluid, tolerated PO 
intake, and pain was well controlled. 
  
# Elevated LFTs: LFTs slightly above baseline. CT with 
hepatomegaly. Patient has been following up with Dr. ___ in 
the outpatient setting (___) and has had elevated LFTs for more 
than ___ years. Based on an MRCP in ___, there was some 
suggestion of a possible biliary sclerosing cholangitis. Pt was 
offered ERCP, but declined but as of ___ has agreed to 
undergo the procedure. Lab tests for hepatitis, ___ 
disease, hemochromatosis, and primary biliary cholangiits have 
been negative. Hepatology was consulted who recommended 
continued outpatient managment and noted no acute need for 
intervention. Patient is scheduled for an outpatient ERCP and 
liver biopsy with Dr. ___.
 
# HTN: Hypertensive in ED, normotensive on the floor. HCTZ was 
initially held due to concern for pancreatitis. Otherwise 
continued on home medications and HCTZ restarted on discharge.

Inactive Issues
 
# CKD: At baseline, stable.  
 
# Depression: Continued and discharge on home medication, Zoloft 
100 mg PO Daily. 
  
# Diabetes: Stable, discharged on home medications.
 
# Low MVC - Pt has normal hematocrit and MCV has been 
chronically low. Likely related to patient's sickle cell trait. 
  
# Transitional issues: 
- Code status: Full (confirmed)
- Emergency contact: Daughter, ___ ___ 
- ___ cultures pending at the time of discharge
- Patient scheduled for ERCP for further evaluation of 
persistent transaminitis
- Would consider endoscopic ultrasound in the outpatient setting 
for possible lymph node biopsy
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 25 mg PO DAILY 
2. Atenolol 25 mg PO DAILY 
3. Sertraline 100 mg PO DAILY 
4. NovoLOG *NF* (insulin aspart) 100 unit/mL Subcutaneous Q8H 
5. Glargine 34 Units Bedtime
6. DiphenhydrAMINE 50 mg PO HS:PRN insomnia 

 
Discharge Medications:
1. Atenolol 25 mg PO DAILY 
2. DiphenhydrAMINE 50 mg PO HS:PRN insomnia 
3. Glargine 34 Units Bedtime
4. Sertraline 100 mg PO DAILY 
5. Hydrochlorothiazide 25 mg PO DAILY 
6. NovoLOG *NF* (insulin aspart) 100 unit/mL SUBCUTANEOUS Q8H 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnoses:
- Sarcoidosis with persistent transaminitis 
- Abdominal lymphadenopathy 
 
Secondary diagnoses: 
- Sickle cell trait
- Hypertension 
- Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
 
It was a pleasure taking care of you at the ___. You were 
admitted for abdominal pain and flank pain.  You were recently 
diagnosed with pancreatitis in the emergency department, but we 
think your symptoms are all related to your underlying diagnosis 
of sarcoidosis.  You had a study called MRCP which looked at 
your liver and pancreas and this was stable from your prior 
imaging.  You also had enlarged lymph nodes in your abdomen that 
were slightly larger than before, and are likely related to your 
sarcoidosis.  You should follow up with the GI doctors after 
your ___ to discuss options for additional workup.  
 
Please continue taking all of your medications as prescribed. 
 
Followup Instructions:
___